US07648989B2
3-(2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
Activated 3 Å molecular sieve (2.0 g) is added to a solution of 2-(2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetamide (1.0 g, 3.61 mmol) and (1-Methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (1.02 g, 4.69 mmol) in dry THF (50 ml) under an atmosphere of argon. A solution of 1.0 M KOtBu in THF (10.9 ml, 10.9 mmol) is then added in one portion at RT. After 1 h at RT, TLC analysis indicates complete conversion of starting materials. The reaction mixture is diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. The organic layer is separated, washed with brine, dried over Na2SO4, and the organic solvent is evaporated. The residue is purified by FCC (EtOAc/AcOH/H2O 600:150:150) to afford the title compound, which is dissolved in glacial AcOH and lyophilized. The title compound is obtained as the water soluble bis-acetate salt. 1H NMR (d6-DMSO, 400 MHz): δ 1.80 (s, 6H), 3.20-3.42 (m, 2H), 6.10 (d, J=9.0 Hz, 1H), 6.44 (t, J=9.0 Hz, 1H), 6.94 (t, J=9.0 Hz, 1H), 7.31 (d, J=9.0 Hz, 1H), 7.34 (d, J=9.0 Hz, 1H), 7.42 (s, 1H), 7.63 (d, J=10.8 Hz, 1H), 7.89 (d, J=9.6 Hz, 1H), 8.03 (d, J=9.0 Hz, 1H), 8.10 (s, 1H), 11.0-11.3 (br, 1H). ES+−MS: 444, 446 [M+H]+.

reactant | 2-(2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-acetamide | 3.61 mmol, 1.0 g | ClC1=C(C2=CC(=CC=C2C=C1)CN(C)C)CC(=O)N | C15H17ClN2O
reactant | (1-Methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 4.69 mmol, 1.02 g | COC(C(=O)C1=CN(C2=CC=CC=C12)C)=O | C12H11NO3
reactant | KOtBu | 1.0 M | CC(C)(C)[O-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10.9 mmol, 10.9 ml | C1CCOC1 | C4H8O
product | 3-(2-Chloro-7-dimethylaminomethyl-naphthalen-1-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | ClC1=C(C2=CC(=CC=C2C=C1)CN(C)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C26H22ClN3O2
